US05342833
To a cold suspension of 75.3 g (191 mmol) (3β)-cholesta-5,7,16-trien-23-yne-3,25-diol in 450 mL of dichloromethane was added 107 mL (1.14 mol) acetic anhydride and 160 mL (1.14 mol) triethylamine. After the suspension was cooled to 2° C., 4.6 g (38 mmol) 4-dimethylaminopyridine was added. After 10 min, the cold bath was removed and the mixture was stirred at room temperature overnight. After cooling again with an ice-water bath, 30.7 mL (758 mmol) methanol was added, and the mixture was stirred at room temperature for 1.5 hr. The mixture was washed with water and the aqueous layer was extracted with dichloromethane. The combined organic layers were washed with 200 mL 1N HCl, and the aqueous layer was extracted with dichloromethane. The combined organic layers were washed with saturated aqueous NaHCO3, dried over Na2SO4, and concentrated to dryness. The residue was dissolved in 700 mL of warm 95 % methanol. After a seed crystal was added, the suspension was stored in a refrigerator overnight. The precipitate was filtered and washed with 700 mL of cold 90% methanol. After being dried under high vacuum, 82.05 g (89.8%) of (3β)-cholesta-5,7,16-trien-23-yne-3,25-diol diacetate was obtained as a white solid: mp 98°-101° C. Anal Calcd for C31H42O4 : C, 77.79; H, 8.84. Found C, 77.74; H, 8.88.

reactant | (3β)-cholesta-5,7,16-trien-23-yne-3,25-diol | 191 mmol, 75.3 g | CC(C)(C#CC[C@@H](C)C1=CC[C@H]2C3=CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)O)O | C27H38O2
reactant | acetic anhydride | 1.14 mol, 107 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 1.14 mol, 160 mL | C(C)N(CC)CC | C6H15N
reactant | methanol | 758 mmol, 30.7 mL | CO | CH4O
solvent | dichloromethane | 450 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 38 mmol, 4.6 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (3β)-cholesta-5,7,16-trien-23-yne-3,25-diol diacetate | 82.05 g, 89.8% | C(C)(=O)O[C@@H]1CC2=CC=C3[C@@H]4CC=C([C@@H](CC#CC(C)(C)OC(C)=O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C31H42O4
